*Inverter with pseudo NMOS load varying length
.include ./t14y_tsmc_025_level3.txt

m0 out in 0 0 cmosn w=1u l=1u
m1 out 0 vdd vdd cmosp w=2.5u l=1u

V_dd vdd 0 5
v_in in 0 dc 2.5 pulse(0 5 1n 0.1n 0.1n 2n 4n)


*********************************************************
*Transfer function and transient responce on varying WIDTH of DRIVER mosfet 
.control
foreach len 0.5u 1u 10u
	alter m0 l=$len
	tran 0.1n 4ns
	dc v_in 0 5 0.1
end
alter m0 l=1u
.endc

.control
	plot dc1.out dc2.out dc3.out vs in
	plot tran1.in tran1.out tran2.out tran3.out
	plot tran1.v_dd#branch*(-vdd) tran2.v_dd#branch*(-vdd) tran3.v_dd#branch*(-vdd)
.endc



*Transfer function and transient responce on varying LENGTH of DRIVER mosfet 
.control
foreach len 0.25u 0.5u 1u
	alter m0 l=$len
	tran 0.1n 4ns
	dc v_in 0 5 0.1
end
alter m0 l=0.5
.endc

.control
	plot dc4.out dc5.out dc6.out vs in
	plot tran4.in tran4.out tran5.out tran6.out
	plot tran4.v_dd#branch*(-vdd) tran5.v_dd#branch*(-vdd) tran6.v_dd#branch*(-vdd)
.endc



*Transfer function and transient responce on varying WIDTH of LOAD mosfet 
.control
foreach wid 1.25u 2.5u 25u
	alter m1 w=$wid
	tran 0.1n 4ns
	dc v_in 0 5 0.1
end
alter m1 w=2.5u
.endc

.control
	plot dc7.out dc8.out dc9.out vs in
	plot tran1.in tran7.out tran8.out tran9.out
	plot tran7.v_dd#branch*(-vdd) tran8.v_dd#branch*(-vdd) tran9.v_dd#branch*(-vdd)
.endc

*Transfer function and transient responce on varying LENGTH of LOAD mosfet 
.control
foreach len 0.5u 1u 10u
	alter m1 l=$len
	tran 0.1n 4ns
	dc v_in 0 5 0.1
end
.endc

.control
	plot dc10.out dc11.out dc12.out vs in
	plot tran4.in tran10.out tran11.out tran12.out
	plot tran10.v_dd#branch*(-vdd) tran11.v_dd#branch*(-vdd) tran12.v_dd#branch*(-vdd)
.endc


