*Varying input rise time and fall time
.include ./t14y_tsmc_025_level3.txt

m0 out in 0 0 cmosn w=1u l=1u
m1 out 0 vdd vdd cmosp w=2.5u l=1u
c0 out 0 0.01p

v_dd vdd 0 5
v_in in 0 dc 2.5 pulse(0 5 1n 0.1n 0.1n 2n 4n)

.control
    foreach cap 0.01p 0.05p 0.1p
        alter c0 = $cap
        tran 0.001 4n
    end
.endc

.control
    plot tran1.in tran1.out tran2.out tran3.out
    plot tran1.v_dd#branch*(-vdd) tran2.v_dd#branch*(-vdd) tran3.v_dd#branch*(-vdd)
.endc