.include ./t14y_tsmc_025_level3.txt

m1 vdd in 0 vsb cmosn l=1u w=0.5u
* power sources excitation etc.
v_dd vdd 0 3.3
v_in in 0 3.3
v_sb 0 vsb 3.3

      *PART A* 
*Input characteristics*

.control
dc v_in 0 3.3 0.1 v_dd 0 3.3 1
plot -dc1.v_dd#branch
.endc

*Output characteristics*

.control
dc v_dd 0 3.3 0.1 v_in 0 3.3 1
plot -dc2.v_dd#branch
.endc
 
     *PART B*
*Input to Output characteristics by varing the WIDTH*

.control
foreach wid 0.25u 0.5u 5u
	alter m1 w=$wid
	dc v_in 0 3.3 0.1
	dc v_dd 0 3.3 0.1
end
alter m1 w=0.5u
.endc

*Input characteristics
.control
plot dc3.v_dd#branch*(-1) dc5.v_dd#branch*(-1) dc7.v_dd#branch*(-1) 
.endc

*Output characteristics
.control
plot dc4.v_dd#branch*(-1) dc6.v_dd#branch*(-1) dc8.v_dd#branch*(-1) 
.endc


            *PART C*
*Input to Output characteristics by varing the LENGTH*

.control
foreach len 0.5u 1u 10u
	alter m1 l=$len	
	dc v_in 0 3.3 0.1		
	dc v_dd 0 3.3 0.1
end
alter m1 l=1u
.endc

*Input characteristics
.control
plot dc9.v_dd#branch*(-1) dc11.v_dd#branch*(-1) dc13.v_dd#branch*(-1) 
.endc

*Output characteristics
.control
plot dc10.v_dd#branch*(-1) dc12.v_dd#branch*(-1) dc14.v_dd#branch*(-1) 
.endc


             *PART D*
*input to Output characteristics by varing the THRESHOLD VOLTAGE*

.control
foreach vol 0.1 0.25 0.5
	altermod m1 VTO=$vol	
	dc v_in 0 3.3 0.1		
	dc v_dd 0 3.3 0.1
end
alter m1 VTO=0.4238252       
.endc

*Input characteristics
.control
plot dc15.v_dd#branch*(-1) dc17.v_dd#branch*(-1) dc19.v_dd#branch*(-1) 
.endc

*Output characteristics
.control
plot dc16.v_dd#branch*(-1) dc18.v_dd#branch*(-1) dc20.v_dd#branch*(-1) 
.endc

             *PART E*
*Input to Output characteristics by varing the TEMPERATURE*

.control
foreach tem 10 25 50
	alter m1 TEMP=$tem	
	dc v_in 0 3.3 0.1		
	dc v_dd 0 3.3 0.1
end
alter m1 TEMP=27
.endc

*Input characteristics
.control
plot dc21.v_dd#branch*(-1) dc23.v_dd#branch*(-1) dc25.v_dd#branch*(-1) 
.endc

*Output characteristics
.control
plot dc22.v_dd#branch*(-1) dc24.v_dd#branch*(-1) dc26.v_dd#branch*(-1) 
.endc


*PART F*
*Input to Output characteristics by varing the VSB
.control
dc v_dd 0 3.3 0.1 v_sb 0 3.3 1
dc v_in 0 3.3 0.1 v_sb 0 3.3 1
.endc

*Input characteristics
.control
plot dc28.v_dd#branch*(-1) 
.endc

*Output characteristics
.control
plot dc27.v_dd#branch*(-1)  
*.endc
